US07071201B2
Example 115: Synthesis of 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-acetamidoindoline
1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-aminoindoline (1.0 g) and acetic anhydride (1 ml) were treated as in Example 133 to give the title compound (450 mg) as a pale yellow powder (yield: 41%).

reactant | 1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-aminoindoline | 1.0 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)N)C=C1 | C21H26FN3
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[1-(4-fluorophenethyl)piperdin-4-yl]-6-acetamidoindoline | 450 mg, yield: 41% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)NC(C)=O)C=C1 | C23H28FN3O
